US04292404
21 g of carbobenzoxyglycyl-L-histidine hydrazide is dissolved in 185 ml of 1 N.HCl and to this solution is added 245 ml of ethyl acetate and 4.3 g of NaNO2 at 0° C. with stirring, and after five minutes, 73 ml of a 50% aqueous solution of K2CO3 is added and then this solution is extracted with ethyl acetate. After the extract is dehydrated over anhydrous sodium sulfate, a solution (cooled to 0° C.) of L-leucine methyl ester in ethyl ether (9 g/208 ml) is added to the extract, and this mixture is left to stand overnight at -5° C. The crystals thus produced are filtered off, and washed with ethyl ether to obtain carbobenzoxyglycyl-L-histidyl-L-leucine methyl ester.

reactant | carbobenzoxyglycyl-L-histidine hydrazide | 21 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)N[C@@H](CC1=CNC=N1)C(=O)NN | C16H20N6O4
reactant | HCl | Cl | ClH
reactant | NaNO2 | 4.3 g | N(=O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | 245 ml | C(C)(=O)OCC | C4H8O2
product | carbobenzoxyglycyl-L-histidyl-L-leucine methyl ester | COC([C@@H](NC([C@@H](NC(CNC(=O)OCC1=CC=CC=C1)=O)CC1=CNC=N1)=O)CC(C)C)=O | C23H31N5O6
